US04012513
A suspension of acetaldehyde N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazone hydrochloride (15.0g.) in ethanol (120ml.; dried over magnesium ethoxide) was cooled and stirred at 5°-10° C for 3 hrs. during the passage of dry hydrogen chloride. The mixture was then left at 0°-5° C. for 3 days before separation by filtration. The solid was washed with dry ether (10ml.), and then dissolved in a mixture of water (30ml.), saturated sodium acetate solution (5ml.) and ethyl acetate (25ml.). The aqueous layer was extracted with more ethyl acetate (2 × 15ml.), and the extracts washed with water (20ml.), dried (Na2SO4) and evaporated to give N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazine, m.p. 124°-127° C.

reactant | acetaldehyde N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazone hydrochloride | 15.0g | Cl.ClC1=CC=C2C(=NC=NC2=C1)N(N=CC)C1=CC=C(C=C1)OC
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 120ml | C(C)O | C2H6O
product | N1 -(7-chloroquinazolin-4-yl)-p-methoxyphenylhydrazine | ClC1=CC=C2C(=NC=NC2=C1)N(N)C1=CC=C(C=C1)OC | C15H13ClN4O
